US07238701B2
Preparation of N-(3-bromophenyl)-7-(2-methoxyethyl)-5,6,7,8-tetrahydro[1]benzothieno[2,3-d]pyrimidin-4-amine
To a solution of DMF were added 52 mg (0.11 mmol, 1 equiv) of N-[7-(2-bromoethyl)5,6,7,8tetrahydro[1]benzothieno[2,3-d]pyrimidin-4-yl]-N-(3-bromophenyl)amine, 17 mg (0.11 mmol, 1 equiv) sodium iodide, and 18 mg (0.33 mmol, 3 equiv) sodium methoxide. The solution was heated at 80° C. for 2 h and upon cooling the solution was purified by prep HPLC (10–90% ACN-H2O). The resulting pure fractions were made basic in aqueous saturated sodium bicarbonate and extracted into EtOAc (10 mL). The EtOAc layer was washed with water (1×10 mL) and dried over MgSO4. The solution was evaporated under reduced pressure yielding 20 mg (44%) of desired product, 90, as a white solid. 1H-NMR (CDCl3-d) δ 8.52 (s, 1H), 7.94 (m, 1H), 7.59 (m, 1H), 7.24 (m, 2H), 7.13 (s, 1H), 3.55 (t, 2H), 3.39 (s, 3H), 3.12 (m, 2H), 3.01 (m, 1H), 2.56 (m, 1H), 2.13 (m, 2H), 1.74 (m, 3H); TLC Rf=0.75 (9:1 CH2Cl2/MeOH); LCMS RT=3.57 min; [M+H]+=418.2.

reactant | N-[7-(2-bromoethyl)5,6,7,8tetrahydro[1]benzothieno[2,3-d]pyrimidin-4-yl]-N-(3-bromophenyl)amine | 0.11 mmol, 52 mg, 1 equiv | BrCCC1CC2=C(CC1)C1=C(N=CN=C1NC1=CC(=CC=C1)Br)S2 | C18H17Br2N3S
reactant | sodium iodide | 0.11 mmol, 17 mg, 1 equiv | [I-].[Na+]
reactant | sodium methoxide | 0.33 mmol, 18 mg, 3 equiv | C[O-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(3-bromophenyl)-7-(2-methoxyethyl)-5,6,7,8-tetrahydro[1]benzothieno[2,3-d]pyrimidin-4-amine | 20 mg, 44% | BrC=1C=C(C=CC1)NC=1C2=C(N=CN1)SC1=C2CCC(C1)CCOC | C19H20BrN3OS
